US06117845
4-{(t-Butyldimethylsilyl)oxy}benzaldehyde (4):
To a dry 100 ml round bottom flask was added 1.31 g of 2. To this was added 50 ml of dry THF, followed by the careful addition of 298 mg NaH (H2 is evolved). After evolution of hydrogen ceased, 1.93 g of TBSCl was added. The reaction was allowed to stir overnight. The solution was then diluted with 100 ml EtOAc, and washed sequentially with water and then brine. The organic layer was then dried with MgSO4 and the solvent removed by evaporation. NMR on the crude product corresponded with the protected aldehyde 4.

reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | NaH | 298 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | TBSCl | 1.93 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 4-{(t-Butyldimethylsilyl)oxy}benzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=O)C=C1 | C13H20O2Si
